US05932601
A solution of titanium tetrachloride (TiCl4) (1.1 g) in dichloromethane (5 ml) was added dropwise, at 0° C., to a solution of 5-[3-[3-isopropoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propyl]-2,4-oxazolidinedione (0.7 g) in dichloromethane (25 ml). The mixture was stirred for one hour at room temperature. The reaction mixture was poured over 2N HCl, which was stirred for 15 minutes at room temperature. The organic layer was separated, and the aqueous layer was subjected to extraction with chloroform. The organic layer combined was and successively washed with water, 2N HCl and water, which was dried (MgSO4) and concentrated. The concentrate was subjected to column chromatography on silica gel. From the fraction eluted with chloroform-methanol (50:1), was obtained 5-[3-[3-hydroxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propyl]-2,4-oxazolidinedione (0.22 g, 34%), which was recrystallized from chloroform-methanol to give colorless prisms, m.p.162-164° C.

reactant | 5-[3-[3-isopropoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propyl]-2,4-oxazolidinedione | 0.7 g | C(C)(C)OC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CCCC1C(NC(O1)=O)=O | C26H28N2O6
reactant | HCl | 2N | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 1.1 g | [Ti](Cl)(Cl)(Cl)Cl
product | 5-[3-[3-hydroxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]propyl]-2,4-oxazolidinedione | 0.22 g, 34% | OC=1C=C(C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1)CCCC1C(NC(O1)=O)=O | C23H22N2O6
